US04289777
1,3-Bis(1-ethyl-3-carboxy-1,4-dihydro-4-oxo-8-quinolyloxy)-2-propanol
0.466 g. (2 mmol) of 1-ethyl-1,4-dihydro-8-hydroxy-4-quinolone-3-carboxylic acid is suspended in 10 ml. of isopropanol; 0.086 ml. (1.1 mmol) of epichlorohydrin is added thereto, and then a solution of 0.224 g. (4.0 mmol) of potassium hydroxide in 5 ml. of isopropanol and 2 drops of water are furthermore introduced. The mixture is refluxed for 48 hours, combined with 2 N NaOH until a clear solution results, and then neutralized with 2 N HCl. The thus-precipitated material is filtered off, washed with water, and dried under vacuum.

reactant | 1-ethyl-1,4-dihydro-8-hydroxy-4-quinolone-3-carboxylic acid | 2 mmol | C(C)N1C=C(C(C2=CC=CC(=C12)O)=O)C(=O)O | C12H11NO4
reactant | epichlorohydrin | 1.1 mmol | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | 4.0 mmol | [OH-].[K+]
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
catalyst | water | 2 drops | O | H2O
product | 1,3-Bis(1-ethyl-3-carboxy-1,4-dihydro-4-oxo-8-quinolyloxy)-2-propanol | C(C)N1C=C(C(C2=CC=CC(=C12)OCC(COC=1C=CC=C2C(C(=CN(C12)CC)C(=O)O)=O)O)=O)C(=O)O | C27H26N2O9
